US06319497B1
As assayed with the API-NFT test (bioMerieux S.A., Marcy-l′Etiole, France), strain 2.2N can grow at about 41° C., reduce nitrate to nitrite, hydrolyze esculin and gelatin, and form indole. Strain 2.2N cannot produce yellow pigments, urease, arginine dihydrolase and cytochrome oxidase.

reactant | nitrate | [N+](=O)([O-])[O-]
reactant | nitrite | N(=O)[O-]
reactant | esculin | C1=C2C(=CC(=C1O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)OC(=O)C=C2 | C15H16O9
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
